US07582626B2
e) cis-N-{3-[1-(Allyl-cyclobutyl-amino)-4-hydroxy-2-oxo-2,4a,5,6,7,7a-hexahydro-1H-[1]pyrindin-3-yl]-1,1-dioxo-1,4-dihydro-1λ6-benzo[1,2,4]thiadiazin-7-yl}-methanesulfonamide
2-(N′-Allyl-N′-cyclobutyl-hydrazino)-cyclopentanecarboxylic acid ethyl ester (333 mg, 1.25 mmol) was dissolved in anhydrous N,N-dimethylformamide (10 mL). (7-Methanesulfonylamino-1,1-dioxo-1,4-dihydro-1λ6-benzo[1,2,4]thiadiazin-3-yl)-acetic acid (416 mg, 1.25 mmol) was added followed by N-methylmorpholine (0.29 mL, 2.62 mmol). The mixture was stirred until everything dissolved, approximately 5 min. 1-(3-Dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (251 mg, 1.31 mmol) was added and the mixture was stirred at 25° C. for 16 h. The reaction was quenched via addition of saturated aqueous sodium bicarbonate solution (20 mL). The mixture was extracted with ethyl acetate (3×30 mL). The organic layers were combined and washed with saturated aqueous brine solution (20 mL). The resulting solution was dried over magnesium sulfate, filtered, and concentrated in vacuo to afford a golden oil. The oil was dissolved in ethanol (8 mL). A 21% w/w solution of sodium ethoxide in ethanol (1.40 mL, 3.75 mmol) was added. The reaction was refluxed for 16 h. The reaction was quenched via the addition of saturated aqueous ammonium chloride solution (10 mL). The mixture was extracted with ethyl acetate (3×20 mL). The organic layer was further washed with saturated aqueous sodium bicarbonate solution (2×20 mL), saturated aqueous brine solution (20 mL), dried over magnesium sulfate, filtered, and concentrated in vacuo to afford a clear oil. Purification by flash column chromatography (Teledyne Isco RediSep Column; 0-5% methanol in dichloromethane) afford the desired product, cis-N-{3-[1-(allyl-cyclobutyl-amino)-4-hydroxy-2-oxo-2,4a,5,6,7,7a-hexahydro-1H-[1]pyrindin-3-yl]-1,1-dioxo-1,4-dihydro-1λ6-benzo[1,2,4]thiadiazin-7-yl}-methanesulfonamide (83 g, 0.16 mmol, 13%), as a white powder. 1H NMR (400 MHz, DMSO-d6) δ: 1.50-1.71 (7H, m), 1.80-2.33 (5H, m), 3.06 (3H, s), 3.67 (2H, s), 3.89-4.05 (2H, m), 5.05-5.12 (1H, m), 5.18-5.22 (1H, m), 5.82-5.90 (1H, m), 7.50-7.57 (3H, m), 10.18 (1H, bs). LC-MS (ESI) calcd for C23H29N5O6S2 535.64, found 536.4 [M+H+].

reactant | 2-(N′-Allyl-N′-cyclobutyl-hydrazino)-cyclopentanecarboxylic acid ethyl ester | 1.25 mmol, 333 mg | C(C)OC(=O)C1C(CCC1)NN(C1CCC1)CC=C | C15H26N2O2
reactant | (7-Methanesulfonylamino-1,1-dioxo-1,4-dihydro-1λ6-benzo[1,2,4]thiadiazin-3-yl)-acetic acid | 1.25 mmol, 416 mg | CS(=O)(=O)NC1=CC2=C(NC(=NS2(=O)=O)CC(=O)O)C=C1 | C10H11N3O6S2
reactant | N-methylmorpholine | 2.62 mmol, 0.29 mL | CN1CCOCC1 | C5H11NO
reactant | 1-(3-Dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 1.31 mmol, 251 mg | Cl.CN(CCCN=C=NCC)C
reactant | sodium ethoxide | [O-]CC.[Na+]
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | ethanol | 8 mL | C(C)O | C2H6O
solvent | ethanol | 3.75 mmol, 1.40 mL | C(C)O | C2H6O
product | cis-N-{3-[1-(allyl-cyclobutyl-amino)-4-hydroxy-2-oxo-2,4a,5,6,7,7a-hexahydro-1H-[1]pyrindin-3-yl]-1,1-dioxo-1,4-dihydro-1λ6-benzo[1,2,4]thiadiazin-7-yl}-methanesulfonamide | 0.16 mmol, 83 g, 13% | C(C=C)N(N1C(C(=C([C@@H]2CCC[C@H]12)O)C1=NS(C2=C(N1)C=CC(=C2)NS(=O)(=O)C)(=O)=O)=O)C2CCC2 | C23H29N5O6S2
